US04959361
The title compound was obtained by coupling 4-(2-chlorophenyl)-2-iodo-9-methyl-6H-thieno-[3,2-f][1,2,4]triazolo[4,3-a][4,1]diazepine with rac-2-ethynyl-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol under the conditions described in Example 37. The product was isolated by chromatography over the 50-fold amount of silica gel using 5% (v/v) of ethanol in methylene chloride. The combined clean fractions were evaporated and the residue was crystallized from ethyl acetate to give colorless crystals of rac-2-{[4-(2-chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][4,1]diazepin-2-yl]ethynyl}-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol with m.p. 155°-160° with foaming. These crystals contained 1.5 molar amounts of water on the basis of the analytical and spectral data.

reactant | 4-(2-chlorophenyl)-2-iodo-9-methyl-6H-thieno-[3,2-f][1,2,4]triazolo[4,3-a][4,1]diazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)I)C(=NN2)C | C15H10ClIN4S
reactant | rac-2-ethynyl-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | C(#C)C1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C15H18O2
reactant | ethanol | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | rac-2-{[4-(2-chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][4,1]diazepin-2-yl]ethynyl}-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)C#CC3(OC1=C(CC3)C(=C(C(=C1C)C)O)C)C)C(=NN2)C | C30H27ClN4O2S
